US08957203B2
To a solution of 1-chloro-6-fluoro-4-methoxyisoquinoline (115 mg, 0.543 mmol) in DMSO (5 mL), was added CsF (165 mg, 1.087 mmol) and the reaction was heated to 140° C. for 2 h. The reaction was diluted with EtOAc and washed with water, and brine. The organic phase was collected, dried over sodium sulfate, and concentrated under vacuum to give the crude product which was purified by silica gel chromatography using 20-40% DCM in hexanes. The product fractions were collected and the solvent was removed under vacuum to give 1,6-difluoro-4-methoxyisoquinoline (71 mg, 67% yield). MS m/z 196.1 (M++1).

reactant | 1-chloro-6-fluoro-4-methoxyisoquinoline | 0.543 mmol, 115 mg | ClC1=NC=C(C2=CC(=CC=C12)F)OC | C10H7ClFNO
reactant | CsF | 1.087 mmol, 165 mg | [F-].[Cs+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1,6-difluoro-4-methoxyisoquinoline | 71 mg, 67% yield | FC1=NC=C(C2=CC(=CC=C12)F)OC | C10H7F2NO
